datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[c:11]23.[H:20]>>[C:0]1=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[c:11]23.[H:12][H:20],67.931424
[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7])([H:4])[H:5].[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])[H:7])([H:4])[H:5].[H:6][H:11],0.0
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](#[C:19][C:20]([C:21]([H:24])([H:25])[H:26])[H:23])[H:22]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:20]([C:19]#[C:18][H:22])([C:21]([H:24])([H:25])[H:26])[H:23])[H:11])[H:10],35.6895
[C:0](#[C:1][C:2]=[C:3]([C:4]#[C:5][H:8])[H:7])[H:6].[H:9]>>[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:8])[H:7])[H:9])[H:6],50.71008
[N:0](=[O:1])[H:2].[O:3][N:4]=[O:5]>>[H:2][O:3][N:4]=[O:5].[N:0]=[O:1],16.90336
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11](=[C:12]([H:21])[H:22])[H:20])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:16])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])[C:11](=[C:12]([H:21])[H:22])[H:20])[H:15])([H:13])[H:14],4.6024
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]2[C:5]([H:14])=[C:6]([H:15])[C:7]([H:16])=[C:8]([H:17])[C:9]12[H:18]>>[H:18].[c:0]1([H:10])[c:1]([H:11])[c:2]([H:12])[c:3]([H:13])[c:4]2[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]12,64.0152
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:9])([H:7])[H:8],23.6814
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]1([H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:15])[O:7]1)([H:12])[H:13])([H:9])([H:10])[H:11].[O:8][H:19],40.128744
[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([O:4])([H:11])[H:12])([H:9])[H:10])([H:8])[H:13])([H:5])([H:6])[H:7],84.0984
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:25]([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:8][C:25]([H:26])([H:27])[H:28],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[C:21]([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:18][C:21]([H:22])([H:23])[H:24],29.928152
[H:0][H:1].[S:2]>>[H:0].[H:1][S:2],82.4248
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([C:6](=[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[H:19])[H:18])[H:17])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]1([C:9]([H:20])([H:21])[H:22])[H:19])[H:10],100.458
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14][O:15][C:16](=[O:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:14][O:15][C:16](=[O:17])[H:18],85.52096
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21])[H:7])([H:5])[H:6],50.5846
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9][C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9](=[C:8]([H:11])[H:12])[C:10]([H:13])([H:14])[H:15],-13.8072
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18])[H:8])([H:6])[H:7],42.886
